US05057614
20 ml of a 1M solution of LiAlH4 in diethyl ether was added to a solution of 1.0 g of 3,4-bis(3-indolyl)-1H-pyrrole-2,5-dione in 140 ml of THF. The mixture was stirred for 18 hours under nitrogen. The mixture was cooled to 0° C., quenched with 50 ml of water, then acidified to pH 2 with 2M hydrochloric acid and extracted with ethyl acetate. The organic extracts were washed with saturated sodium bicarbonate solution, dried and evaporated. The residue was purified on silica gel with 5-10% methanol in dichloromethane. The first product eluted was triturated with ethyl acetate/hexane to give 175 mg of 3,4-bis(3-indolyl)-3-pyrrolin-2-one, m.p. 290°-293° C. (decomposition). The second product eluted was crystallized from ethyl acetate/chloroform to give 490 mg of 5-hydroxy-3,4-bis(3-indolyl)-3-pyrrolin-2-one, m.p. above 250° C. (decomposition).

reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3,4-bis(3-indolyl)-1H-pyrrole-2,5-dione | 1.0 g | N1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CNC2=CC=CC=C12)=O)=O | C20H13N3O2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 140 ml | C1CCOC1 | C4H8O
product | 3,4-bis(3-indolyl)-3-pyrrolin-2-one | 175 mg | N1C=C(C2=CC=CC=C12)C=1C(NCC1C1=CNC2=CC=CC=C12)=O | C20H15N3O
